US07091232B2
To a mixture of NaH (2.64 g, 66 mmol) in dimethylcarbonate (4.2 mL, 50 mmol) in THF (30 mL) was added a solution of 5-fluoroindanone (commercially available from Aldrich) (5 g, 33 mmol). After 30 m at 65° C. the mixture was cooled to rt, acidified with HCl (aq) and extracted with Et2O or EtOAc. The organic layers were washed with water, dried over MgSO4 and evaporated to dryness. The residue was used in the next step without further purification. The keto-ester was dissolved in AcOH (100 mL) and 70% perchloric acid (2 mL). 10% Pd/C (2 g) was added and the mixture was hydrogenated at 50 psi for 18 h. The mixture was diluted with Et2O or CHCl3 and water and filtered through a pad of celite. The organic layer was separated and the aqueous layer was extracted with Et2O. The organic fractions were pooled, washed with water, dried over MgSO4, filtered and evaporated to leave a residue. The residue was purified by chromatography on silica gel with 15% EtOAc: hexane to give 5-fluoro-indan-2-carboxylic acid methyl ester (Intermediate EIGHTEEN-3), 2.25 g. Use of 5-fluoro-indan-2-carboxylic acid methyl ester (Intermediate EIGHTEEN-3) in Method SEVENTEEN produced 4-(5-fluoro-indan-2-yl)-1,3-dihydro-imidazole-2-thione (Compound 145).

reactant | NaH | 66 mmol, 2.64 g | [H-].[Na+]
reactant | dimethylcarbonate | 50 mmol, 4.2 mL | COC(OC)=O | C3H6O3
reactant | 5-fluoroindanone | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | HCl | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-fluoro-indan-2-carboxylic acid methyl ester | COC(=O)C1CC2=CC=C(C=C2C1)F | C11H11FO2
